US07989457B2
To a mixture of 4-{2-cyclohexyl-1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethylsulfanyl}-benzoic acid (100 mg, 0.5 mmol) in methylene chloride (5 mL) are added triethyl amine (0.09 mL, 0.62 mmol), DMAP (5.0 mg), 3-amino-propionic acid methyl ester (86.2 mg, 0.62 mmol) and EDCI (118.7 mg, 0.62 mmol) at room temperature. The reaction mixture is stirred at room temperature overnight, loaded on silica gel, eluted with eluted with hexanes with a gradient from 0% of ethyl acetate to 100% of ethyl acetate giving 3-(4-{2-cyclohexyl-1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethylsulfanyl}-benzoylamino)-propionic acid methyl ester (90 mg).

reactant | 4-{2-cyclohexyl-1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethylsulfanyl}-benzoic acid | 0.5 mmol, 100 mg | C1(CCCCC1)CC(C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)SC1=CC=C(C(=O)O)C=C1 | C27H26F3NO2S
reactant | triethyl amine | 0.62 mmol, 0.09 mL | C(C)N(CC)CC | C6H15N
reactant | 3-amino-propionic acid methyl ester | 0.62 mmol, 86.2 mg | COC(CCN)=O | C4H9NO2
reactant | EDCI | 0.62 mmol, 118.7 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 5.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-(4-{2-cyclohexyl-1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethylsulfanyl}-benzoylamino)-propionic acid methyl ester | 90 mg | COC(CCNC(C1=CC=C(C=C1)SC(CC1CCCCC1)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C31H33F3N2O3S
